US04077795
Two and six-tenths grams (.01 mole) of 2,6-dinitro-4-t-butylchlorobenzene was reacted with 3.1 grams of 40% aqueous solution of dimethylamine in 50 ml. ethanol. The temperature was slowly increased as follows: 30° C. for 1 hour, 40° C. for 1 hour, 50° C. for one hour, then 80° C. for five hours. When the reaction was complete, about 100 ml. H2O was added, precipitating the product. This was filtered, washed with portions of H2O and upon recrystallization from ethanol yielded 2.5 grams of N,N-dimethyl-2,6-dinitro-4-t-butylaniline in the form of orange-yellow needles melting at 101-102° C.

reactant | 2,6-dinitro-4-t-butylchlorobenzene | .01 mole | [N+](=O)([O-])C1=C(C(=CC(=C1)C(C)(C)C)[N+](=O)[O-])Cl | C10H11ClN2O4
reactant | dimethylamine | CNC | C2H7N
reactant | ethanol | C(C)O | C2H6O
solvent | H2O | O | H2O
product | N,N-dimethyl-2,6-dinitro-4-t-butylaniline | 2.5 grams | CN(C1=C(C=C(C=C1[N+](=O)[O-])C(C)(C)C)[N+](=O)[O-])C | C12H17N3O4
